US04318913
2-[3-[4-[2-(Dimethylamino)ethyl]phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione
A mixture of 4-[2-(dimethylamino)ethyl]phenol (4.13 g) and sodium hydride (0.67 g) in dimethylformamide was stirred at room temperature for 24 h. N-(3-Bromopropyl) phthalimide (6.7 g) was added at 0° and stirring was continued for 24 h. The solution was treated with water and extracted with ether. Evaporation of the solvent gave the title compound as a white solid which was recrystallised from light petroleum (b.p. 60°-80°) 2.3 g) m.p. 81°-82°. TLC silica; ethyl acetate:water:isopropanol:0.88 ammonia 25:8:15:2; Rf 0.45.

reactant | 4-[2-(dimethylamino)ethyl]phenol | 4.13 g | CN(CCC1=CC=C(C=C1)O)C | C10H15NO
reactant | sodium hydride | 0.67 g | [H-].[Na+]
reactant | N-(3-Bromopropyl) phthalimide | 6.7 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[3-[4-[2-(Dimethylamino)ethyl]phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione | CN(CCC1=CC=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1)C | C21H24N2O3
